US06734200B1
5(S)-Isoxazol-3-ylaminomethyl-3-[-3-fluoro-4-(1-(2(S),3-dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)phenyl]oxazolidin-2-one
To a stirred solution of 5(R)-[-N-isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)aminomethyl]-3-{3-fluoro-4-[N-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl]phenyl}oxazolidin-2-one (200 mg, 0.3 mM) in acetic acid (3 ml) was added zinc dust (195 mg, 3.0 mM). The mixture was stood in an ultrasonic bath for 10 min. then stirred vigorously for 24 hours under a nitrogen atmosphere at ambient temperature. Water (0.5 ml) was added and stirring was continued for a further 24 hours. The reaction mixture was filtered through celite and evaporated. The residue was dissolved in tetrahydrofuran (15 ml)/1.0 M aq. HCl (10 ml) and was stirred at ambient temperature for 3 days. It was evaporated to dryness and the residue was chromatographed by MPLC (8% MeOH/CH2Cl2, gradient to 25%). The title compound was obtained as a white powder on trituration with ether/ethanol (68 mg, 50%). NMR: δ2.42(s, 2H,partially obscured), 3.43(m, 2H), 3.57(m, 1H), 3.79(m, 3H), 4.16(m, 2H), 4.27(m, 1H), 4.38(m, 1H), 4.72(m, 1H), 4.91(m, 1H), 5.00(m, 1H), 6.00(m, 2H), 6.57(t, 1H), 7.30(d of d, 1H), 7.39(t, 1H), 7.50(d of d, 1H), 8.40(s, 1H); m/z ES+(M+H)=447.

reactant | 5(R)-[-N-isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)aminomethyl]-3-{3-fluoro-4-[N-(2,2-dimethyl-1,3-dioxolan-4(S)-ylcarbonyl)-1,2,5,6-tetrahydropyrid-4-yl]phenyl}oxazolidin-2-one | 0.3 mM, 200 mg | O1N=C(C=C1)N(C(=O)OCC(Cl)(Cl)Cl)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCN(CC1)C(=O)[C@H]1OC(OC1)(C)C)F | C27H28Cl3FN4O8
reactant | Water | 0.5 ml | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 3.0 mM, 195 mg | [Zn] | Zn
product | 5(S)-Isoxazol-3-ylaminomethyl-3-[-3-fluoro-4-(1-(2(S),3-dihydroxypropanoyl)-1,2,5,6-tetrahydropyrid-4-yl)phenyl]oxazolidin-2-one | O1N=C(C=C1)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCN(CC1)C([C@H](CO)O)=O)F | C21H23FN4O6
